US05679688
Step B: t-Butyl 3-(1-methyl-3-phenylpropen-2-yl)carbazate:
This compound was prepared by the method of Ghali et al. (J. Org. Chem., 1981, 46, 5413-5414) in about 65% overall yield, from trans-4-phenyl-3-buten-2-one and t-butyl carbazate, after crystallization of the crude product from hexane; melting point=76°-79° C.; NMR (CDCl3) 1.24 (d, 3H, CH3); 1.45 (s, 9H, t-butyl CH3); 3.78 (m, 2H, propenyl CH-1, carbazate NH-3); 5.8 -6.29 (m, 2H, carbazate NH-2, propenyl CH-2); 6.53 (d, 1 H, propenyl CH-3); 7.3 (m, 5H, aromatic).

reactant | trans-4-phenyl-3-buten-2-one | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
reactant | t-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
product | t-Butyl 3-(1-methyl-3-phenylpropen-2-yl)carbazate | CC=C(CC1=CC=CC=C1)NNC(=O)OC(C)(C)C | C15H22N2O2
